US06002043
81.4 g (0.6 mol) of p-toluic acid and 892 g of monochlorobenzene are introduced into the reactor and 582 g (5.9 mol) of phosgene are then added. The set pressure is adjusted to 11.2 bar relative and the reaction medium is heated. The reaction is complete after 3 hours. Analysis of the final reaction medium is carried out by gas chromatography. The level of residual acid is 0.3 mol % and the level of toluoyl chloride obtained is 99.7 mol %.

reactant | p-toluic acid | 0.6 mol, 81.4 g | CC=1C=CC(=CC1)C(=O)O | C8H8O2
reactant | phosgene | 5.9 mol, 582 g | C(=O)(Cl)Cl | CCl2O
solvent | monochlorobenzene | 892 g | ClC1=CC=CC=C1 | C6H5Cl
product | toluoyl chloride | C=1(C(=CC=CC1)C(=O)Cl)C | C8H7ClO
